US07598383B2
Step B: Preparation of 4-(2-fluoro-4-methylphenylamino)-1,3-dimethyl-6,7-dihydro-1H-pyrrolo[3,4-b]pyridine-2,5-dione:
To a solution of 2-bromomethyl-4-(2-fluoro-4-methylphenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester (0.016 g, 0.040 mmol) in MeOH (0.50 mL) was added ammonia (0.006 mL, 0.040 mmol, 7 M solution in MeOH). After stirring for 2 hours at room temperature, the reaction mixture was heated to 40° C. for 8 hours. The resulting white precipitate was filtered to yield clean desired product (0.005 g, 46%). MS ESI (+) m/z 303 (M+1) detected; 1H NMR (400 MHz, DMSO) δ 8.16 (br s, 1H), 8.04 (br s, 1H), 6.81-6.94 (m, 3H), 4.33 (s, 2H), 3.45 (s, 3H), 2.33 (s, 3H), 1.63 (s, 3H). 19F (376 MHz, DMSO) −127.1 (s, 1F).

reactant | 2-bromomethyl-4-(2-fluoro-4-methylphenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester | 0.040 mmol, 0.016 g | C(C)OC(=O)C1=C(N(C(C(=C1NC1=C(C=C(C=C1)C)F)C)=O)C)CBr | C18H20BrFN2O3
reactant | ammonia | 0.040 mmol, 7 M, 0.006 mL | N | H3N
solvent | MeOH | 0.50 mL | CO | CH4O
product | 4-(2-fluoro-4-methylphenylamino)-1,3-dimethyl-6,7-dihydro-1H-pyrrolo[3,4-b]pyridine-2,5-dione | 0.005 g, 46% | FC1=C(C=CC(=C1)C)NC=1C2=C(N(C(C1C)=O)C)CNC2=O | C16H16FN3O2
